US07384941B2
4-Benzylmorpholin-3-one (2)
A solution of N-benzyl-N-(2-hydroxyethyl) chloroacetamide (627.7 g, 2.76 mol) in tert-butanol (0.9 l) was stirred under nitrogen while warming to 25-30° C. Potassium tert-butoxide (2.897 l of a 1M solution in tert-butanol, 2.90 mol, 1.05 eq) was added over 2 hours. The reaction mixture was then stirred at room temperature for 90 minutes. Ice-cold water (6 l) was added and the resultant cloudy solution extracted with ethyl acetate. The combined organic layers were washed with brine, dried over magnesium sulphate and evaporated in vacuo to give a light brown oil (441 g, 84%), which was used in the next stage without further purification; MW 191.23; C11H13NO2; 1H NMR (CDCl3): 7.29-7.40 (5H, m), 4.67 (2H, s), 4.28 (2H, s), 3.87 (2H, t, 5 Hz), 3.31 (2H, t, 5 Hz); LCMS: (12 min method) m/z 192 [M+H]+ @ Rt 1.00 min.

reactant | N-benzyl-N-(2-hydroxyethyl) chloroacetamide | 2.76 mol, 627.7 g | C(C1=CC=CC=C1)N(C(CCl)=O)CCO | C11H14ClNO2
reactant | Potassium tert-butoxide | CC(C)([O-])C.[K+]
solvent | tert-butanol | 0.9 l | C(C)(C)(C)O | C4H10O
product | 4-Benzylmorpholin-3-one | 441 g, 84% | C(C1=CC=CC=C1)N1C(COCC1)=O | C11H13NO2
